US07875647B2
2-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazol-3-yl)-5-cyclobutyl-1,3,4-thiadiazole
N-cyclobutanoyl-N′-[5-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carbonyl]-hydrazine (0.14 g, 0.29 mmol) was added to a microwave reactor containing Lawesson's reagent (0.18 g, 0.44 mmol) in 1,4-dioxane (3 mL). The capped reactor was placed into a microwave reactor and the mixture was heated at 180° C. for 15 min, and the process was repeated one more time. The reaction mixture was then purified by preparative HPLC to provide the title compound (60 mg, 0.16 mmol, 43%) as yellow solid.

reactant | N-cyclobutanoyl-N′-[5-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carbonyl]-hydrazine | 0.29 mmol, 0.14 g | C1(CCC1)C(=O)NNC(=O)C1=NN(C(=C1C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C22H19Cl3N4O2
reactant | Lawesson's reagent | 0.44 mmol, 0.18 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazol-3-yl)-5-cyclobutyl-1,3,4-thiadiazole | 0.16 mmol, 60 mg, 43% | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C=1SC(=NN1)C1CCC1)C | C22H17Cl3N4S
